US04076936
(b) (6R,7S)-3-Acetoxymethyl-7-[2-hydroxyimino-2-(thien-2-yl)-acetamido]-7-methoxyceph-3-em-4-carboxylic Acid (syn isomer)
t-Butyl (6R,7R and S [ca 1:8])-3-acetoxymethyl-7-methoxy-7[2-triphenylmethoxyimino-2-(thien-2-yl)-acetamido]-ceph-3-em-4-carboxylate (1.172 g, 1.56 mmole) was stirred with anisole (1.5 ml) and trifluoroacetic acid (5 ml) for 1 hour at +20°. The solution was added dropwise to vigorously stirred saturated aqueous sodium bicarbonate solution (400 ml); the mixture was stirred for 10 minutes and then washed with ethyl acetate (3×80 ml). The aqueous layer was covered with ethyl acetate (80 ml) and adjusted to pH 3 with orthophosphoric acid. The aqueous layer was extracted with ethyl acetate (3×80 ml) and the combined ethyl acetate layers were washed with brine, then passed through Whatman 1 PS phase-separating paper and evaporated. The residual foam was chromatographed on kieselgel G (60 g) in 4:1:5 butan-1-ol:ethanol:water. The appropriate fractions were combined and evaporated and the residue was dissolved in acetone, filtered through Celite, and evaporated to provide the title compound as a pale-brown amorphous solid containing 0.8 mole butan-1-ol, and 0.07 mole acetone (nmr) and 5 mole water (416 mg, 0.66 mole, 42.5%), paper chromatography Rf/Rf cephaloram 0.84, [α]D +40° (Me2SO), λmax (pH 6-buffer) 264.5 nm, inflexion at 290 nm (ε 15,200 and 10,700 respectively).

reactant | 3-acetoxymethyl-7-methoxy-7[2-triphenylmethoxyimino-2-(thien-2-yl)-acetamido]-ceph-3-em-4-carboxylate | 1.56 mmole, 1.172 g | C(C)(=O)OCC=1CS[C@H]2N(C1C(=O)[O-])C(C2(NC(C(C=2SC=CC2)=NOC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)OC)=O
reactant | anisole | 1.5 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | sodium bicarbonate | 400 ml | C([O-])(O)=O.[Na+]
product | (6R,7S)-3-Acetoxymethyl-7-[2-hydroxyimino-2-(thien-2-yl)-acetamido]-7-methoxyceph-3-em-4-carboxylic Acid | C(C)(=O)OCC=1CS[C@H]2N(C1C(=O)O)C([C@@]2(OC)NC(C(C=2SC=CC2)=NO)=O)=O | C17H17N3O8S2
